* Библиотека советских компараторов

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt k544ca3  1 2 3 4 5 6

i1 3 7 dc 10e-6
i2 3 8 dc 10e-6
i3 12 4 dc .5e-3
i4 15 4 dc .5e-3
q1 4 2 7 qin
q2 4 1 8 qin
q3 3 3 9 qm
q4 10 7 12 qm
q5 11 8 12 qm
q6 3 3 13 qm
q7 19 11 15 qm
q8 14 10 15 qm
q9 17 19 16 qin
q10 17 8 6 qm
q11 5 17 18 qoc
r1 9 10 1.2k
r2 9 11 1.2k
r3 13 14 750
r4 3 16 600
r5 17 18 4k
r6 18 6 4
r7 13 19 750
.model qin PNP(Is=800.0E-18 Bf=1000)
.model qm NPN(Is=800.0E-18 Bf=833)
.model qoc NPN(Is=800.0E-18 Bf=34.49E3 Cjc=1E-15 Tf=364.6E-12 Tr=79.34E-9)
*
.ends

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt k521ca3  1 2 3 4 5 6
*
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .45
  vi2  22  2 dc .45
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=833.3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=118.8E-9)
  e1   10  6  9  4  1
  v1   10 11 dc 0
  q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=34.49E3 Cjc=1E-15 Tf=364.6E-12 Tr=79.34E-9)
  dp    4  3 dx
  rp    3  4 6.122E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends
